* som_j1.cir — SPICE subckt for the SoM mezzanine connector J1 subsystem.
*
* CARRIER-LOCAL: the J connectors are the SoM side of the carrier<->SoM
* contract; their nets are real carrier nets (carrier/som_conn_gen.py +
* carrier/som_interface.json), not abstract library names. A board-level .op/
* .tran wires these subckt pins straight onto the same carrier nets.
*
* J1 is a PURE pass-through receptacle (Hirose DF40C-100DS-0.4V(51), 100 pins):
* it adds NO on-sheet passive network — no decoupling, no straps, no series/
* termination parts. The placement engine's connector-fan template fires only
* for a lone >=40-pin part, so every carrier-side discrete (e.g. the PUDC strap)
* lives on another sheet. There is therefore nothing to model as a small-signal
* element; this subckt declares J1's externally-visible POWER/GROUND rails as its
* pins so a board sim can tie the module rails, and leaves the body empty.
*
* The 58 signal PORT pass-throughs (Ethernet MDI, USB, STM32-SC, JTAG, SDIO,
* PS UART/MIO, FMC LA08-11) and the seven isolated-rail no-connects (J1.24-27
* +3V3, J1.56/58/60 +1V8) carry no two-rail passive and so are not subckt pins.
*
* Rails (carrier spelling, '+' stripped for SPICE node syntax):
*   V5V_SOM   = +5V_SOM   SoM module input (P0 rebind, 4.2-5 V; J1.1-14)
*   V3V3_SC   = +3V3_SC   SoM system-controller 3.3 V domain
*
* Port order: V5V_SOM V3V3_SC GND   (GND last, by convention)

.subckt som_j1 V5V_SOM V3V3_SC GND

* Pure pass-through receptacle: no on-sheet passive network.
* (rails modelled as a tiny resistive tie so the node is not floating in .op)
R5V_SOM V5V_SOM GND 1G
R3V3_SC V3V3_SC GND 1G

.ends som_j1

* Standalone smoke harness (ngspice -b runs it; harmless under any project use):
* a 1 V source through 1k onto V5V_SOM settles to ~1 V at DC (1G tie is open).
.subckt _src P
V1 vin 0 1
R1 vin P 1k
.ends _src
.end
